US08791161B2
4-Chloro-N-(5-chloro-2-mercapto-phenyl)-3-trifluoromethyl-benzenesulfonamide
To a solution of N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis[4-chloro-3-(trifluoromethyl)benzenesulfonamide] Intermediate 5 (106 mg, 0.13 mmol) in THF (3 ml) at 0° C. was added NaBH4 (20 mg, 0.53 mmol), the mixture was stirred at room temperature for 1 h, diluted with H2O, acidified carefully with 6 M HCl, extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo to yield 109 mg off-white solid as the title compound.

reactant | N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis[4-chloro-3-(trifluoromethyl)benzenesulfonamide] | ClC=1C=CC(=C(C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)SSC1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C26H14Cl4F6N2O4S4
reactant | NaBH4 | 0.53 mmol, 20 mg | [BH4-].[Na+]
reactant | HCl | 6 M | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 4-Chloro-N-(5-chloro-2-mercapto-phenyl)-3-trifluoromethyl-benzenesulfonamide | 109 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)S)C(F)(F)F | C13H8Cl2F3NO2S2
